US08106236B2
b) 2-(3,5-Bis-trifluoromethanesulfonyloxy-phenyl)-4-methyl-pentanoic acid methyl ester
Trifluoromethanesulfonic anhydride (208 μL, 1.26 mmol) was added dropwise to a stirred solution of 2-(3,5-dihydroxy-phenyl)-4-methyl-pentanoic acid methyl ester (50 mg, 0.21 mmol) and pyridine (195 μL, 2.52 mmol) in DCM (5 mL) at 0° C. then warmed to room temperature. After 1 h, the mixture washed with 1M HCl (2 mL), dried (MgSO4) and concentrated in vacuo to afford the title product as an orange oil (104 mg, 99%). The product was used without further purification in the next step

reactant | Trifluoromethanesulfonic anhydride | 1.26 mmol, 208 μL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 2-(3,5-dihydroxy-phenyl)-4-methyl-pentanoic acid methyl ester | 0.21 mmol, 50 mg | COC(C(CC(C)C)C1=CC(=CC(=C1)O)O)=O | C13H18O4
reactant | pyridine | 2.52 mmol, 195 μL | N1=CC=CC=C1 | C5H5N
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 2-(3,5-Bis-trifluoromethanesulfonyloxy-phenyl)-4-methyl-pentanoic acid methyl ester | 104 mg, 99% | COC(C(CC(C)C)C1=CC(=CC(=C1)OS(=O)(=O)C(F)(F)F)OS(=O)(=O)C(F)(F)F)=O | C15H16F6O8S2
